US05670493
Stage A: 4-Nitrostyryl phosphonic acid diethyl ester
Sodium ethylate (4.95 g, 72.8 mmol) is added to a solution of 4-nitrobenzaldehyde (10 g, 66.2 mmol) in 200 ml of methanol, and tetraethyl methylenediphosphonate (21 g, 72.8 mmol) is then added dropwise. After 2 h of stirring at room temperature, a further 0.43 g of sodium ethylate and 2 g of tetraethyl methylene diphosphonate are added. After 15 min of stirring at room temperature, the ethanol is evaporated off under vacuum and the residue is bipartitioned in a water/ethyl acetate mixture. The organic phase is washed with water, then dried (MgSO4) and evaporated under vacuum to give the expected product.

reactant | Sodium ethylate | 72.8 mmol, 4.95 g | CC[O-].[Na+]
reactant | 4-nitrobenzaldehyde | 66.2 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | tetraethyl methylenediphosphonate | 72.8 mmol, 21 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium ethylate | 0.43 g | CC[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-Nitrostyryl phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C12H16NO5P
